US07741327B2
To a solution of (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid (0.100 g, 0.28 mmol) in dichloromethane (10 mL) was added 1-methyl-1H-pyrazol-3-ylamine (0.040 g, 0.41 mmol), N,N-diisopropylethylamine (0.110 g, 0.85 mmol) and benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate (0.180 g, 0.41 mmol) at 0° C. The mixture was allowed to slowly warm up to room temperature and then stirred for 2 h. The mixture was partioned between ethyl acetate and water. The organic layer was then collected and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel 30% to 100% ethyl acetate/hexanes) which afforded (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide (0.075 g, 62%) as a white solid: HR-ES-MS m/z calculated for C24H32N4O4 [M+H]+ 441.2497, observed 441.2497; 1H NMR (300 MHz, CDCl3) δ ppm 0.92-1.01 (m, 6H), 1.24 (s, 6H), 1.40-1.69 (m, 2H), 1.68-1.97 (m, 2H), 2.78 (s, 2H), 3.82 (br. s., 3H), 4.07 (d, J=18.1 Hz, 1H), 4.27 (d, J=17.5 Hz, 1H), 4.79-4.94 (m, 1H), 4.97 (s, 1H), 6.60 (br. s., 1H), 7.07 (br. s., 2H), 7.14 (d, J=7.5 Hz, 1H), 7.30-7.40 (m, 2H), 8.55 (br. s., 1H).

reactant | (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid | 0.28 mmol, 0.100 g | OC(CC=1C=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC1)(C)C | C20H27NO5
reactant | 1-methyl-1H-pyrazol-3-ylamine | 0.41 mmol, 0.040 g | CN1N=C(C=C1)N | C4H7N3
reactant | N,N-diisopropylethylamine | 0.85 mmol, 0.110 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.41 mmol, 0.180 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide | 0.075 g, 62% | CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)CC(C)(C)O)=O)=O | C24H32N4O4
